US04699995
2-(1-Tridecynyl)benzaldehyde
Palladium acetate (96 mg) was added to a deaerated mixture of 2-bromobenzaldehyde (7.40 g, 40 mmol), 1-tridecyne (12.2 g, 68 mmol) and triphenylphosphine (320 mg) in dry triethylamine (160 ml) and the mixture was stirred at 105° C. under a nitrogen atmosphere overnight. After cooling, the precipitated triethylamine hydrobromide was filtered off and the filtrate was evaporated to a crude red oil. Chromatography on silica gel eluting with dichloromethane:petroleum ether [bp 60°-80° C.](1:1) afforded 7.12 g (63%) of the title compound of bp0.05 212° C. (Kugelrohr), M+ 284.2141 (C20H28O requires; 284.2140).

reactant | 2-bromobenzaldehyde | 40 mmol, 7.40 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 1-tridecyne | 68 mmol, 12.2 g | C#CCCCCCCCCCCC | C13H24
solvent | triethylamine | 160 ml | C(C)N(CC)CC | C6H15N
catalyst | Palladium acetate | 96 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 320 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-(1-Tridecynyl)benzaldehyde | 7.12 g, 63% | C(#CCCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C20H28O
